data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cccc(C(=O)C2C3CCC2C3)c1C", "products": "Cc1cccc([C]([O])C2C3CCC2C3)c1C"}, {"reactants": "Cc1cccc([C]([O])C2C3CCC2C3)c1C", "products": "Cc1cccc(C([O])=CC2C[CH]CC2)c1C"}, {"reactants": "Cc1cccc(C([O])=CC2C[CH]CC2)c1C", "products": "Cc1cccc(C(O)=CC2C=CCC2)c1C"}, {"reactants": "Cc1cccc(C(O)=CC2C=CCC2)c1C", "products": "Cc1cccc(C(=O)CC2C=CCC2)c1C"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1F", "products": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1F"}, {"reactants": "Cc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1F", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)c(F)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)c(F)c1", "products": "Cc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1F"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1ccc(C(=O)C2C3CCC2C3)cc1C", "products": "Cc1ccc([C]([O])C2C3CCC2C3)cc1C"}, {"reactants": "Cc1ccc([C]([O])C2C3CCC2C3)cc1C", "products": "Cc1ccc(C([O])=CC2C[CH]CC2)cc1C"}, {"reactants": "Cc1ccc(C([O])=CC2C[CH]CC2)cc1C", "products": "Cc1ccc(C(O)=CC2C=CCC2)cc1C"}, {"reactants": "Cc1ccc(C(O)=CC2C=CCC2)cc1C", "products": "Cc1ccc(C(=O)CC2C=CCC2)cc1C"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "Cc1cccc(Cl)c1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "Cc1cccc(Cl)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "Cc1cccc(Cl)c1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1cccc(Cl)c1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "Cc1cccc(Cl)c1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "Cc1cccc(Cl)c1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "Cc1cccc(Cl)c1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "CC1=C(c2c(C)cccc2Cl)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2c(C)cccc2Cl)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2c(C)cccc2Cl)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2c(C)cccc2Cl)CCC(C(=O)[OH2+])C1(C)C", "products": "Cc1cccc(Cl)c1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "Cc1cccc(Cl)c1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "Cc1cccc(Cl)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "Cc1cccc(Cl)c1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "Cc1cccc(Cl)c1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(OC)c(NN=CCc2ccccc2)cc1Cl.Cl[Zn]Cl", "products": "COc1cc(OC)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl"}, {"reactants": "COc1cc(OC)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COc1cc(OC)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl.[H+]"}, {"reactants": "COc1cc(OC)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(OC)ccc2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(OC)ccc2Cl)C(=N)C=C1", "products": "COc1cc(OC)c(Cl)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1N"}, {"reactants": "COc1cc(OC)c(Cl)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1N", "products": "COc1cc(OC)c2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(OC)c2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(OC)c2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(OC)c2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(OC)c2c(c1Cl)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(OC)c2c(c1Cl)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(OC)c2[nH]cc(-c3ccccc3)c2c1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1c(F)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1c(F)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1c(F)cccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(F)c1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(F)c1OC", "products": "COc1c(F)cccc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [], "steps": [{"reactants": "CC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1NO.C=O", "products": "CC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]"}, {"reactants": "CC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1[NH+](O)C[O-]", "products": "CC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO"}, {"reactants": "CC1[C@H](C)C[C@H]2CC=CC[C@H]2[C@@H]1N(O)CO", "products": "C=[N+](O)[C@@H]1C(C)[C@H](C)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(C)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(C)[C@H](C)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(C)[C@H](C)C[C@H]2CC=CC[C@H]21", "products": "CC1[C@H](C)C[C@H]2CC3O[N@]4CC3C[C@H]2[C@@H]14"}]}
